US08710049B2
B: 1-(4-(Oxazol-2-yl)phenyl)piperidin-3-yl methanesulfonate
To a solution of 1-(4-(oxazol-2-yl)phenyl)piperidin-3-ol (85 mg, 0.348 mmol) in CH2Cl2 (2 mL) at 0° C. was added dropwise mesyl chloride (0.033 mL, 0.418 mmol), followed by Et3N (0.058 mL, 0.418 mmol). The reaction was stirred at 0° C. for 5 min, and then at rt for 30 min. After this time, HPLC and LC/MS showed that the desired product formed and no there was no starting material remaining. The reaction was concentrated. The residue was dissolved in EtOAc, washed with water, saturated aqueous NaHCO3 and saturated aqueous NaCl. The organic layer was dried over Na2SO4, filtered and concentrated to give the desired product 1-(4-(oxazol-2-yl)phenyl)piperidin-3-yl methanesulfonate (110 mg, 0.341 mmol, 98% yield) as an off-white foam. Anal. Calcd. for C15H18N2O4S m/z 322.3, found: 323.1 (M+H)+.

reactant | 1-(4-(oxazol-2-yl)phenyl)piperidin-3-ol | 0.348 mmol, 85 mg | O1C(=NC=C1)C1=CC=C(C=C1)N1CC(CCC1)O | C14H16N2O2
reactant | mesyl chloride | 0.418 mmol, 0.033 mL | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | Et3N | 0.418 mmol, 0.058 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-(Oxazol-2-yl)phenyl)piperidin-3-yl methanesulfonate | CS(=O)(=O)OC1CN(CCC1)C1=CC=C(C=C1)C=1OC=CN1 | C15H18N2O4S
